US08314107B2
A mixture of methyl 6-hydroxybenzo[d]thiazole-2-carboxylate (0.21 g, 1 mmol) and 1N aqueous sodium hydroxide (2 mL) was stirred at room temperature overnight. The reaction mixture was then carefully acidified with concentrated hydrochloric acid. The precipitate formed was filtered, washed with water, and dried under reduced pressure to afford 6-hydroxybenzo[d]thiazole-2-carboxylic acid as a white solid (0.20 g, 99%). 1H-NMR (DMSO-d6, 300 MHz): δ 10.20 (s, 1H), 7.96 (m, 1H), 7.44 (m, 1H), 7.06 (m, 1H) ppm; MS (ESI): 196.1 (M+1).

reactant | methyl 6-hydroxybenzo[d]thiazole-2-carboxylate | 1 mmol, 0.21 g | OC1=CC2=C(N=C(S2)C(=O)OC)C=C1 | C9H7NO3S
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 6-hydroxybenzo[d]thiazole-2-carboxylic acid | 0.20 g, 99% | OC1=CC2=C(N=C(S2)C(=O)O)C=C1 | C8H5NO3S
